US05859014
substituting 5-hydroxyiminomethyl-2,4(1H,3H)-pyrimidinedione and benzyl bromide gave 1-benzyl-5-hydroxyiminomethyl-2,4(1H,3H)-pyrimidinedione, m.p. 172°-174° C.; and

reactant | 5-hydroxyiminomethyl-2,4(1H,3H)-pyrimidinedione | ON=CC=1C(NC(NC1)=O)=O | C5H5N3O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-benzyl-5-hydroxyiminomethyl-2,4(1H,3H)-pyrimidinedione | C(C1=CC=CC=C1)N1C(NC(C(=C1)C=NO)=O)=O | C12H11N3O3
